US06169086A
1) Preparation of 2-Iodo-3-methoxypyrazine
To 20 ml of an anhydrous THF solution of 1.3 g of diisopropylamine was added 4.8 ml (2.5 M hexane solution) of n-butyllithium at −78° C., and the mixture was stirred at that temperature for 20 minutes. To the reaction mixture was added 10 ml of a THF solution of 1.1 of 2-methoxypyrazine, followed by stirring at −78° C. for 1 hour. To the reaction mixture was further added 10 ml of a THF solution of 4.0 g of iodine, followed by stirring for 4 hours while gradually elevating the temperature to room temperature. The reaction mixture was diluted with ethyl acetate, washed successively with a saturated sodium thiosulfate aqueous solution and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was subjected to silica gel column chromatography using chloroform as a developing solution. The fraction containing the desired compound was concentrated to give 0.49 g of the title compound.

reactant | diisopropylamine | 1.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5 M, 4.8 ml | C(CCC)[Li]
reactant | 2-methoxypyrazine | COC1=NC=CN=C1 | C5H6N2O
reactant | iodine | 4.0 g | II | I2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Iodo-3-methoxypyrazine | 0.49 g | IC1=NC=CN=C1OC | C5H5IN2O
